US06747023B1
1-(tert-Butoxycarbonyl)-2-(carbamoylmethyl)-[(5-chloroindol-2-yl)sulfonyl]piperazine
To a 1,4-dioxane solution (100 ml) of 1-(tert-butoxycarbonyl)-4-[(5-chloro-1-phenylsulfonylindol-2-yl)sulfonyl]-2-(methoxycarbonylmethyl)piperazine (800 mg) was added a 1N aqueous solution of sodium hydroxide (3.9 ml) at room temperature. The resulting mixture was heated to 80° C. and stirred for 13 hours. Under ice cooling, a saturated aqueous solution of ammonium chloride was added to neutralize the reaction mixture, followed by the addition of distilled water and methylene chloride. The water layer was extracted 4 times with methylene chloride. The organic layers were combined, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was dried overnight under reduced pressure and then, an N,N′-dimethylformamide solution (50 ml) was obtained. At room temperature, di-tert-butyl dicarbonate (856 mg, 3.92 mmol), pyridine (259 mg) and ammonium bicarbonate (233 mg) were added to the resulting solution, followed by stirring at room temperature for 15 hours. The reaction mixture was distilled under reduced pressure to remove the solvent and the residue was dissolved in methylene chloride. Hexane and diethyl ether were added to solidify the resulting solution. The resulting solid was collected by filtration, washed with hexane and dried under reduced pressure, whereby the title compound (502 mg) was obtained as a colorless solid.

reactant | 1-(tert-butoxycarbonyl)-4-[(5-chloro-1-phenylsulfonylindol-2-yl)sulfonyl]-2-(methoxycarbonylmethyl)piperazine | 800 mg | C(C)(C)(C)OC(=O)N1C(CN(CC1)S(=O)(=O)C=1N(C2=CC=C(C=C2C1)Cl)S(=O)(=O)C1=CC=CC=C1)CC(=O)OC | C26H30ClN3O8S2
reactant | sodium hydroxide | 3.9 ml | [OH-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | di-tert-butyl dicarbonate | 3.92 mmol, 856 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ammonium bicarbonate | 233 mg | C([O-])(O)=O.[NH4+]
reactant | pyridine | 259 mg | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 1-(tert-Butoxycarbonyl)-2-(carbamoylmethyl)-[(5-chloroindol-2-yl)sulfonyl]piperazine | C(C)(C)(C)OC(=O)N1C(CNCC1)(CC(N)=O)S(=O)(=O)C=1NC2=CC=C(C=C2C1)Cl | C19H25ClN4O5S
